US07989457B2
Step B. 4-(3-Bromo-4-methoxy-benzoyl)-benzoic acid methyl ester
To the solution of 4-(4-methoxy-benzoyl)-benzoic acid methyl ester (3.4 g, 12.6 mmol) in dichloromethane (10 mL) is added bromine (2.4 g, 15.1 mmol). The solution is stirred at room temperature till the starting material is gone. Then the mixture is diluted with dichlormethane, washed with 1N NaOH, water, brine, dried, and purified with column chromatography to give the titled compound as a yellow solid: 4.42 g (100%).

reactant | 4-(4-methoxy-benzoyl)-benzoic acid methyl ester | 12.6 mmol, 3.4 g | COC(C1=CC=C(C=C1)C(C1=CC=C(C=C1)OC)=O)=O | C16H14O4
reactant | bromine | 15.1 mmol, 2.4 g | BrBr | Br2
solvent | dichloromethane | 10 mL | ClCCl | CH2Cl2
product | 4-(3-Bromo-4-methoxy-benzoyl)-benzoic acid methyl ester | COC(C1=CC=C(C=C1)C(C1=CC(=C(C=C1)OC)Br)=O)=O | C16H13BrO4
